US04894371
To a stirred suspension of Raney nickel (16 g.) in MeOH (13 ml.) at 0° was added a solution of 3-azidomethyl-7-[2-(2-aminothiazol-4-yl)-2-((Z)-methoxyimino)acetamido]ceph-3-em-4-carboxylic acid (2.96 g.) in MeOH/TFA (14 ml., 1.13 ml.). After effervescence ceased the mixture was diluted with MeOH and filtered through paper. The filtrate was evaporated, the residue purified by HPLC using water/HOAc/MeOH 79:1:20 v/v/v as eluant and the product dried over P2O5 to give 3-aminomethyl-7-[2-(2-aminothiazol-4-yl)-2-((Z)-methoxyimino)acetamido]ceph-3-em-4-carboxylic acid trifluorocetate (yield 45%) having the following n.m.r. in solvent A:--3.5-4.2 (m, 4 H); 3.9 (s, 3 H); 5.15 (d, 1 H); 5.85 (d, 1 H); 6.75 (s, 1 H). The corresponding zwitterionic form was produced by passing an aqueous solution through an ion exchange column.

reactant | 3-azidomethyl-7-[2-(2-aminothiazol-4-yl)-2-((Z)-methoxyimino)acetamido]ceph-3-em-4-carboxylic acid | 2.96 g | N(=[N+]=[N-])CC=1CS[C@H]2N(C1C(=O)O)C(C2NC(\C(=N/OC)\C=2N=C(SC2)N)=O)=O | C14H14N8O5S2
catalyst | Raney nickel | 16 g | [Ni] | Ni
solvent | MeOH | 13 ml | CO | CH4O
solvent | MeOH TFA | 14 ml | CO.C(=O)(C(F)(F)F)O
product | 3-aminomethyl-7-[2-(2-aminothiazol-4-yl)-2-((Z)-methoxyimino)acetamido]ceph-3-em-4-carboxylic acid | yield 45% | NCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(\C(=N/OC)\C=2N=C(SC2)N)=O)=O | C14H16N6O5S2
